US04857543
A mixture of 2-propionylthiophene (50 g), sodium cyanide (19.9 g), ammonium bicarbonate (106 g) and an aqueous methanol solution is stirred for 5 hours under increased pressure with heating. After cooling, the precipitates are collected by filtration, washed and dried, whereby 5-ethyl-5-(2-thienyl)hydantoin (45 g) is obtained.

reactant | 2-propionylthiophene | 50 g | C(CC)(=O)C=1SC=CC1 | C7H8OS
reactant | sodium cyanide | 19.9 g | [C-]#N.[Na+]
reactant | ammonium bicarbonate | 106 g | C([O-])(O)=O.[NH4+]
reactant | methanol | CO | CH4O
product | 5-ethyl-5-(2-thienyl)hydantoin | 45 g | C(C)C1(C(NC(N1)=O)=O)C=1SC=CC1 | C9H10N2O2S
